US05708008
2-methyl-5-methanesulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.37 gm (6.1 mMol) 2-methyl-5-methanesulfonylamino-1H-indole and 0.98 mL (7.9 mMol) 1-methyl-4-piperidone, 0.65 gm (33.3%) of the title compound were recovered as a yellow solid.

reactant | 2-methyl-5-methanesulfonylamino-1H-indole | 6.1 mMol, 1.37 gm | CC=1NC2=CC=C(C=C2C1)NS(=O)(=O)C | C10H12N2O2S
reactant | 1-methyl-4-piperidone | 7.9 mMol, 0.98 mL | CN1CCC(CC1)=O | C6H11NO
product | 2-methyl-5-methanesulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.65 gm, 33.3% | CC=1NC2=CC=C(C=C2C1C=1CCN(CC1)C)NS(=O)(=O)C | C16H21N3O2S
